US08802713B2
Preparation of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2-chloro-2,2-difluoroethylsulfinyl)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole (compound No. 1-178 of the present invention)
0.6 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2-chloro-2,2-difluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole was dissolved in 20mL of chloroform, and 0.3 g of m-chloroperbenzoic acid (purity: 75%) was added under cooling with ice. After stirring for 30 minutes under cooling with ice, the solution was washed with an aqueous sodium thiosulfate solution and then washed with an aqueous potassium carbonate solution, and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, the obtained residue was purified by silica gel column chromatography (developing solvent ethyl acetate:hexane=1:2) to obtain 0.6 g of the title compound.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2-chloro-2,2-difluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 0.6 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)Cl)C)F)OCC(C(F)(F)F)(F)F | C17H14ClF8N3O2S
reactant | m-chloroperbenzoic acid | 0.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20mL | C(Cl)(Cl)Cl | CHCl3
product | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2-chloro-2,2-difluoroethylsulfinyl)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 0.6 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)S(=O)CC(F)(F)Cl)C)F)OCC(C(F)(F)F)(F)F | C17H14ClF8N3O3S
